* Z:\home\christoph\git\MegawattKS_Radio_Design_101\IF1_mixer\simulation\ringmod_vs_switcher.asc
V§LO1 N005 0 PULSE(0 1 0 1n 1n {1/(2*lo)} {1/lo}) Rser=50
L1 0 N006 33µ
L2 0 N002 33µ
L3 N008 0 33µ
L4 IF1 N001 33µ
L5 N007 IF1 33µ
L6 0 N003 33µ
D1 N001 N002 1N5819
V§RF1 N004 0 SINE(0 1e-3 {rf})
R1 IF1 0 50
D2 N002 N007 1N5819
D3 N007 N008 1N5819
D4 N008 N001 1N5819
R2 N004 N003 50
C1 N006 N005 100n
V§LO2 N011 0 PULSE(0 3 0 1n 1n {1/(2*lo)} {1/lo}) Rser=50
C2 N010 N009 330p
L7 N010 IF2 820n
R3 IF2 0 50
V§RF2 N009 0 SINE(0 1e-3 {rf}) Rser=50
XM1 N010 N011 0 BSS138P
.model D D
.lib C:\users\christoph\Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 L3 1
K2 L4 L5 L6 1
.tran 0 20e-6 1e-6 1e-11
.options numdgt=7
.options plotwinsize=0
.inc BSS138P_2011.txt
.param lo=10.5e6
.param rf=10.7e6
* fft(V(IF1)) : LO1 and RF1 30dB below IF1
* fft(V(IF2)) : LO2 44dB ABOVE IF2!
.backanno
.end
