* C:\users\christoph\Documents\git\MegawattKS_Radio_Design_101\LO\JFET_Clapp\simulation\sim1.asc
* Generated by LTspice 26.0.2 for Windows.
J1 N003 c b J309
L1 b 0 47µ Rser=1
R1 c 0 100k
C1 b c 180p
C2 0 b 180p
C3 N005 0 51p Rpar=1meg
L2 c N005 6.8µ
V1 N001 0 5
D1 c N002 1N4148
J2 N004 N006 N007 J309
R2 N006 0 100k
L3 N007 0 47µ Rser=1m
R3 osc_out 0 50
C6 osc_out N007 100n
C5 N006 b 3p
V2 N002 0 3
R4 N001 N004 47
C4 N004 0 100n
R5 N001 N003 47
C8 N003 0 100n
C7 0 0 100n
.model D D
.lib C:\users\christoph\AppData\Local\LTspice\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\users\christoph\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 0 200u 50u startup
.param first_edge 200 ; 200th edge
.param last_edge 700 ; 700th edge
.param zero_crossing_voltage 0 ; voltage at zero crossing
.meas tran T1 find time when V(osc_out)={zero_crossing_voltage} rise {first_edge}
.meas tran T2 find time when V(osc_out)={zero_crossing_voltage} rise {last_edge}
.meas tran Frequency param ({last_edge}-{first_edge})/(T2-T1)
.options numdgt=7
.options plotwinsize=0
* Rutgers design values
.backanno
.end
