* Z:\home\christoph\git\MegawattKS_Radio_Design_101\audio_amplifier\simulation\buffer-amp\amp2.asc
V1 N001 0 5
C1 N003 N002 10µ
Vin N002 0 SINE(0 {160m*sqrt(2)} 1k) AC 1 Rser=8k
Q5 N001 N003 N004 0 2N3904
C3 out N006 10µ
Rout out 0 30
R1 N001 N005 120k
R2 N005 0 390k
R3 N004 0 33k
R4 N003 N005 47k
C2 N004 N005 10µ
Q1 N001 N004 N006 0 2N3904
R5 N006 0 680
.model NPN NPN
.model PNP PNP
.lib C:\users\christoph\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param f=1e3
.four {f} 10 100 V(out)
.options numdgt=7
.options plotwinsize=0
.op
;.tran 0 {120/f} {20/f} {1/(f*100)}
.ac dec 1meg 10 100k
.net I(Rout) Vin
* 8k output impedance \nfrom de-emphasis circuitry.
* 200 ohm Input impedance\nof organ-sound amplifier.
* See AoE 2.4.3 Bootstrapping for more info.
* Idc = 3.7mA\nZin = 1.9Mohm\nZout = 30ohm\nTHD=0.5% at 160mVrms input
.backanno
.end
