* Z:\home\christoph\git\MegawattKS_Radio_Design_101\audio_amplifier\simulation\speaker\onetransistor.eu_5V_stronger_bias.asc
Q1 N001 N002 N003 0 ZXTN4240FQ
Q3 0 N005 N003 0 ZXTP5240F
D1 N002 N004 1N4148
D2 N004 N005 1N4148
R1 out N002 1k
R2 N003 N008 18k
R3 N008 0 5.6k
R4 N008 N007 2.3k
V1 N001 0 5
C1 N007 N006 10µ
C2 N003 out 1mF Rser=500m
Rout N001 out 8
Vin N006 0 SINE(0 {165m*sqrt(2)} 1k) AC 1 Rser=30
C5 N003 N008 68p
C3 N001 N002 4.7n
C4 0 N005 4.7n
Q2 N005 N008 0 0 ZXTN4240FQ
.model D D
.lib C:\users\christoph\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\christoph\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param f=1e3
.four {f} 10 100 V(out)
.options numdgt=7
.options plotwinsize=0
.op
.tran 0 {120/f} {20/f} {1/(f*100)}
;ac dec 1meg 10 100k
;.net I(Rout) Vin
.inc SS8050.mod
.inc SS8550.mod
.inc ZXTN4240FQ.spice.txt
.inc ZXTP5240F.spice.txt
* Idc=11mA\nTHD 1% at Vin=160mVrms (30ohm source) and Pout=140mW
* ESR of C2 is not critical,\nkeep < 0.5ohm
* R2+R3 should be 15K + 10K trimpot + 2.2K -> trim for V(Q1.E) = 2.5V
* SS8050 and SS8550 : 1%THD at 120mW, R1=390ohm, R2=17K, R3=7.5K\n \nThe following transistor combinations have a much higher current gain:\n* ZXTN4240/ZXTN5240\n* 2SD2657/2SB1695
.backanno
.end
