* C:\users\christoph\Documents\git\MegawattKS_Radio_Design_101\audio_filter\simulations\filter4.asc
V1 N002 0 0 AC 1
Q1 N001 N005 OUT1 0 2N3904
R2 N003 N004 15k
R3 N004 N005 3.3k
R4 0 OUT1 10k
C1 N004 OUT1 1.5n
C2 N005 0 820p
V2 N001 0 5
R1 N001 N005 39k
R5 N005 0 150k
C3 N003 N002 100n
Q2 N001 N008 OUT2 0 2N3904
R6 N006 N007 15k
R7 N007 N008 3.3k
R8 0 OUT2 10k
C4 N007 OUT2 1.5n
C5 N008 0 820p
R9 N001 N008 39k
R10 N008 0 150k
C6 N006 OUT1 100n
.model NPN NPN
.model PNP PNP
.lib C:\users\christoph\Documents\LTspiceXVII\lib\cmp\standard.bjt
;op
.ac dec 1000 100 1meg
* Calculator : http://sim.okawa-denshi.jp/en/OPstool.php\nStopband limitation\nhttps://ez.analog.com/cfs-filesystemfile/__key/communityserver-wikis-components-files/00-00-00-06-97/KWIK_5F00_FAQ-_2D00_-Design-of-an-anti_2D00_aliasing-Sallen_2D00_Key-filter.pdf
.backanno
.end
