**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Wirewound Ferrite Bead
* Matchcode:              WE-RFH 
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-07-15
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt RFH_1008A_744758247A_0u47 1 2
C1 1 N7 168.0548f
L1 1 N1 460n
L2 N1 N2 19.2495n
L3 N2 N3 87.5662n
L4 N3 N4 591.2661p
L5 N4 N5 9.6261n
L6 N5 N6 1.0580
R1 2 N1 8.9470
R2 2 N2 1.8336
R3 2 N3 89.4228
R4 2 N4 13.3560
R5 2 N5 8.8347
R6 2 N6 7.1328
R7 2 N7 64.7013
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758256A_0u56 1 2
C1 1 N7 150.3394f
L1 1 N1 550n
L2 N1 N2 25.3272n
L3 N2 N3 89.1886n
L4 N3 N4 591.4417p
L5 N4 N5 9.6275n
L6 N5 N6 1.0580
R1 2 N1 9.4966
R2 2 N2 2.0642
R3 2 N3 89.4165
R4 2 N4 13.0677
R5 2 N5 8.8281
R6 2 N6 7.1328
R7 2 N7 66.4245
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758268A_0u68 1 2
C1 1 N7 183.9980f
L1 1 N1 660n
L2 N1 N2 32.5365n
L3 N2 N3 102.0185n
L4 N3 N4 588.3073p
L5 N4 N5 9.6305n
L6 N5 N6 1.0556
R1 2 N1 10.8478
R2 2 N2 2.7329
R3 2 N3 89.3876
R4 2 N4 11.7100
R5 2 N5 8.8000
R6 2 N6 7.1324
R7 2 N7 75.3095
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758282A_0u82 1 2
C1 1 N7 262.9457f
L1 1 N1 790n
L2 N1 N2 14.9557n
L3 N2 N3 6.2729n
L4 N3 N4 35.7050n
L5 N4 N5 86.9910n
L6 N5 N6 33.9364n
R1 2 N1 36.3006
R2 2 N2 23.0568
R3 2 N3 24.4305
R4 2 N4 2.7660
R5 2 N5 9.5066
R6 2 N6 8.0493
R7 2 N7 75.1485
R8 2 1 10g
.ends 
******* 
.subckt RFH_1008A_744758310A_1u 1 2
C1 1 N7 231.5325f
L1 1 N1 0.95u
L2 N1 N2 25.3400n
L3 N2 N3 6.3020n
L4 N3 N4 47.2187n
L5 N4 N5 92.6349n
L6 N5 N6 35.3077n
R1 2 N1 36.2859
R2 2 N2 22.8601
R3 2 N3 24.2591
R4 2 N4 2.8621
R5 2 N5 9.5082
R6 2 N6 8.0502
R7 2 N7 75.1106
R8 2 1 10g
.ends 
******* 
.subckt RFH_1008A_744758312A_1u2 1 2
C1 1 N7 265.2355f
L1 1 N1 1.07u
L2 N1 N2 108.7603n
L3 N2 N3 2.3028n
L4 N3 N4 64.5675n
L5 N4 N5 92.8764n
L6 N5 N6 38.1218n
R1 2 N1 45.6659
R2 2 N2 5.5705
R3 2 N3 14.6605
R4 2 N4 1.1895
R5 2 N5 9.3844
R6 2 N6 7.8720
R7 2 N7 712.1588
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758315A_1u5 1 2
C1 1 N7 252.3150f
L1 1 N1 1.32u
L2 N1 N2 170.8327n
L3 N2 N3 2.3909n
L4 N3 N4 65.6413n
L5 N4 N5 195.6645n
L6 N5 N6 39.0121n
R1 2 N1 65.9206
R2 2 N2 4.5692
R3 2 N3 14.6547
R4 2 N4 1.9765
R5 2 N5 9.3880
R6 2 N6 3.8763
R7 2 N7 712.8460
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758318A_1u8 1 2
C1 1 N7 264.3965f
L1 1 N1 1.65u
L2 N1 N2 175.1485n
L3 N2 N3 2.4508n
L4 N3 N4 65.1714n
L5 N4 N5 136.8166n
L6 N5 N6 139.3688n
R1 2 N1 65.8935
R2 2 N2 4.5785
R3 2 N3 14.7493
R4 2 N4 3.0244
R5 2 N5 9.3892
R6 2 N6 7.8777
R7 2 N7 712.8861
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758322A_2u2 1 2
C1 1 N7 288.2978f
L1 1 N1 2u
L2 N1 N2 205.3286n
L3 N2 N3 2.8158n
L4 N3 N4 104.0131n
L5 N4 N5 105.2821n
L6 N5 N6 41.8956n
R1 2 N1 65.6805
R2 2 N2 4.6600
R3 2 N3 15.5291
R4 2 N4 4.1681
R5 2 N5 29.3968
R6 2 N6 27.8860
R7 2 N7 712.9040
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758327A_2u7 1 2
C1 1 N7 207.3497f
L1 1 N1 2.4u
L2 N1 N2 242.2424n
L3 N2 N3 2.8263n
L4 N3 N4 119.0770n
L5 N4 N5 279.0487n
L6 N5 N6 42.2367n
R1 2 N1 95.8573
R2 2 N2 44.6333
R3 2 N3 15.4792
R4 2 N4 3.2044
R5 2 N5 7.4015
R6 2 N6 6.9325
R7 2 N7 713.3290
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758333A_3u3 1 2
C1 1 N7 212.3983f
L1 1 N1 3u
L2 N1 N2 300.4284n
L3 N2 N3 2.8662n
L4 N3 N4 133.7225n
L5 N4 N5 846.3623n
L6 N5 N6 43.7359n
R1 2 N1 96.0180
R2 2 N2 44.6558
R3 2 N3 15.6153
R4 2 N4 3.3913
R5 2 N5 7.4045
R6 2 N6 7.9337
R7 2 N7 713.6103
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758339A_3u9 1 2
C1 1 N7 383.6795f
L1 1 N1 3.57u
L2 N1 N2 315.4599n
L3 N2 N3 2.9408n
L4 N3 N4 111.0555n
L5 N4 N5 1.2489u
L6 N5 N6 45.1081n
R1 2 N1 96.1292
R2 2 N2 44.8352
R3 2 N3 16.9043
R4 2 N4 4.5982
R5 2 N5 1.3972
R6 2 N6 126.4844m
R7 2 N7 713.6080
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758347A_4u7 1 2
C1 1 N7 492.7077f
L1 1 N1 4.25u
L2 N1 N2 414.8331n
L3 N2 N3 2.9601n
L4 N3 N4 182.4590n
L5 N4 N5 870.1867n
L6 N5 N6 45.1511n
R1 2 N1 96.0837
R2 2 N2 44.8415
R3 2 N3 16.9405
R4 2 N4 4.5906
R5 2 N5 1.3972
R6 2 N6 127.3367m
R7 2 N7 712.9246
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758356A_5u6 1 2
C1 1 N7 246.0949f
L1 1 N1 5.1u
L2 N1 N2 506.6736n
L3 N2 N3 2.9625n
L4 N3 N4 234.8081n
L5 N4 N5 2.0746u
L6 N5 N6 44.8175n
R1 2 N1 117.1477
R2 2 N2 50.8263
R3 2 N3 16.7654
R4 2 N4 5.4725
R5 2 N5 1.4004
R6 2 N6 84.9038m
R7 2 N7 714.3242
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758368A_6u8 1 2
C1 1 N7 517.3151f
L1 1 N1 6.2u
L2 N1 N2 517.3573n
L3 N2 N3 2.9760n
L4 N3 N4 218.2527n
L5 N4 N5 1.3292u
L6 N5 N6 44.7905n
R1 2 N1 97.1702
R2 2 N2 90.8338
R3 2 N3 66.7788
R4 2 N4 5.4714
R5 2 N5 1.4003
R6 2 N6 84.9172m
R7 2 N7 714.1578
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758382A_8u2 1 2
C1 1 N7 406.7916f
L1 1 N1 7.5u
L2 N1 N2 576.9690n
L3 N2 N3 3.0437n
L4 N3 N4 279.5173n
L5 N4 N5 1.6064u
L6 N5 N6 43.8204n
R1 2 N1 136.0854
R2 2 N2 204.6066
R3 2 N3 110.3195
R4 2 N4 6.7129
R5 2 N5 11.4008
R6 2 N6 84.8965m
R7 2 N7 715.8741
R8 2 1 10g
.ends 
*******
.subckt RFH_1008A_744758410A_10u 1 2
C1 1 N7 294.8179f
L1 1 N1 9.2u
L2 N1 N2 661.1143n
L3 N2 N3 3.1020n
L4 N3 N4 215.6403n
L5 N4 N5 3.1801u
L6 N5 N6 43.9623n
R1 2 N1 139.2283
R2 2 N2 207.3699
R3 2 N3 119.3454
R4 2 N4 8.0881
R5 2 N5 11.4055
R6 2 N6 84.9207m
R7 2 N7 716.8977
R8 2 1 10g
.ends 
*******