* C:\github\MegawattKS_Radio_Design_101\diplexer_filter_IF_port\simulation\diplexer_IF_actual_values.asc
V1 N001 0 AC 1 Rser=50
R1 N003 0 50
XL1 N001 N002 RFI_1008A_744762368A_6u8
C1 N003 N002 33p
R2 N004 N001 50
R3 N003 N004 50
Cp1 N004 0 3.45n
XL2 N008 0 4248_744912168_68n
V2 N005 0 AC 1 Rser=50
R4 N007 0 50
XL3 N005 N006 RFH_1008A_744758368A_6u8
C2 N007 N006 33p
R5 N008 N005 50
R6 N007 N008 50
Cp2 N008 0 3.3n
XL4 N004 0 1008_744762168A
.net I(R1) V1
.net I(R4) V2
.ac dec 1001 5e6 500e6
.inc WE-RFI.lib
.inc WE-RFH.lib
* 6.8µH WE-RFH: lower S11 near 10.7MHz
* 6.8µH WE-RFI
* WE-KI as L4 gives much lower S11.
.lib Contrib/Wurth/WE-CAIR.lib
.lib Contrib/Wurth/WE-KI.lib
.backanno
.end
