* C:\github\MegawattKS_Radio_Design_101\filter\simulation\Preselect_final_values.asc
V2 N011 0 AC 1 Rser=50
RL1 N015 0 50
C4 N013 N012 6.8p
C5 N014 N013 6.8p
C6 0 N013 177p
XL5 N013 0 1008_744762115A
XL4 N011 N012 1008_744762239A
XL6 N014 N015 1008_744762239A
V1 N001 0 AC 1 0 Rser=50.00
C1 N001 N002 6.494p
L1 N002 N003 410.4n
C2 N003 0 182.6p
L2 N003 0 14.59n
C3 N003 N004 6.494p
L3 N004 N005 410.4n
RL N005 0 50
V3 N006 0 AC 1 0 Rser=50.00
C7 N006 N007 6.698p
L7 N007 N008 397.9n
C8 N008 0 318.3p
L8 N008 0 8.373n
C9 N008 N009 6.698p
L9 N009 N010 397.9n
RL2 N010 0 50
V4 N017 0 AC 1 Rser=50
RL3 N021 0 50
C10 N019 N018 6p
C11 N020 N019 6p
C12 0 N019 220p
XL10 N019 0 3136_744913112_12.5n
XL11 N017 N018 5910_744918242_422n
XL12 N020 N021 5910_744918242_422n
.ac dec 1001 50Meg 200Meg
.net I(RL) V1
.net I(RL1) V2
.net I(RL2) V3
.net I(RL3) V4
* 3rd Order Chebyshev Bandpass\nConventional, Series First\nLower Cutoff Freq. = 88 MHz; Upper Cutoff Freq. = 108 MHz\nPassband Ripple = 0.10 dB\n\nrf-tools.com | Apr 13 2025 13:20
* 3rd Order Butterworth Bandpass\nConventional, Series First\nLower Cutoff Freq. = 88 MHz; Upper Cutoff Freq. = 108 MHz\n\n\nrf-tools.com | Apr 13 2025 20:26
.lib Contrib/Wurth/WE-CAIR.lib
.lib Contrib/Wurth/WE-KI.lib
.backanno
.end
