* Z:\home\christoph\git\MegawattKS_Radio_Design_101\rf-frontend\simulation\antenna_frontend.asc
V1 N002 0 0 AC 1 Rser=5k
C_Whip N003 N002 100p
C2 N004 N003 10p
C3 0 N004 6p
L1 N004 0 175n
C4 out2 N004 10p
R2 out2 0 50
V2 N001 0 0 AC 1 Rser=5k
C_Whip1 out1 N001 12p
R1 out1 0 50
R3 N007 N005 3
C1 N006 N007 100p
L2 N006 out3 45n
C5 out3 0 128p
V3 N005 0 0 AC 1 Rser=1000
R4 out3 0 50
R5 N004 0 1k
.ac dec 101 50meg 500meg
* Whip antenna directly to 50ohm input
* Antenna impedance matching circuit and resonator : signal 10dB stronger
* Antenna
* Matching network
.backanno
.end
